US06121271
2-Benzyl-4,5-dimethylthiophene
At -78° C., to a stirred solution of 2,3-dimethylthiophene (5.00 g, 44.6 mmol) in THF (89.3 mL) was added dropwise 2.5M BuLi/hexanes (17.9 mL, 44.6 mmol). After the addition was complete, the dry ice/acetone bath was replaced with a water ice bath and the reaction was stirred for 0.75 h. At -78° C., to the reaction was added a solution of benzyl bromide (5.30 mL, 44.6 mmol) in THF (44.6 mL) that had been previously cooled to -78° C. After the addition was complete, the reaction was stirred for 18 h eventually warming to ambient temerature. The reaction was filtered through a silica gel pad eluting with 1% EtOAc/pet ether and the filtrate was concentrated. Purification on Biotage KP-Sil eluting with 1% EtOAc/pet ether gave 6.960 g (77%) of the title compound as an oil. 1H NMR (DMSO-d6) δ 2.01 (s, 3 H), 2.21 (s, 3 H), 3.98 (s, 2 H), 6.58 (s, 1 H), 7.18-7.37 (m, 5 H).

reactant | 2,3-dimethylthiophene | 44.6 mmol, 5.00 g | CC=1SC=CC1C | C6H8S
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | benzyl bromide | 44.6 mmol, 5.30 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 89.3 mL | C1CCOC1 | C4H8O
solvent | THF | 44.6 mL | C1CCOC1 | C4H8O
product | 2-Benzyl-4,5-dimethylthiophene | 6.960 g, 77% | C(C1=CC=CC=C1)C=1SC(=C(C1)C)C | C13H14S
